US05356897
A mixture of 3-(4-fluorophenyl)-2-(pyridin-4-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine (100 mg), triethylamine (0.4 ml) and acetic anhydride (0.2 ml) in dry 1,2-dichloroethane (3 ml) was refluxed for 2 days. The reaction mixture was cooled and concentrated in vacuo. The residue was dissolved in dichloromethane and the solution was washed with an aqueous saturated sodium bicarbonate solution and brine, dried and concentrated in vacuo. The residue was purified by column chromatography on silica gel and the obtained oil was crystallized from diisopropyl ether to give 4-acetyl-3-(4-fluorophenyl)-2-(pyridin-4-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine (60 mg).

reactant | 3-(4-fluorophenyl)-2-(pyridin-4-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine | 100 mg | FC1=CC=C(C=C1)C=1C(=NN2C1NCCC2)C2=CC=NC=C2 | C17H15FN4
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
product | 4-acetyl-3-(4-fluorophenyl)-2-(pyridin-4-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine | 60 mg | C(C)(=O)N1C=2N(CCC1)N=C(C2C2=CC=C(C=C2)F)C2=CC=NC=C2 | C19H17FN4O
